US05760041
A solution of 1.64 g of 2-butynoic acid in 46 ml of tetrahydrofuran was cooled in an ice bath. A 2.34 ml portion of isobutyl chloroformate followed by a 4.13 ml portion of N-methyl morpholine were added. After about 10 minutes, this was poured into a solution of 6-amino-4-chloroquinazoline in 46 ml tetrahydrofuran. This mixture was stirred at room temperature for 2 hours. The mixture was poured into a mixture of brine and saturated sodium bicarbonate and extracted with ether. The ether solution was dried over magnesium sulfate and filtered. The solvent was removed giving [4chloro-6-quinazolinyl]-2-butynamide as colored oil that was used in the next step without additional purification.

reactant | 2-butynoic acid | 1.64 g | C(C#CC)(=O)O | C4H4O2
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
reactant | 6-amino-4-chloroquinazoline | NC=1C=C2C(=NC=NC2=CC1)Cl | C8H6ClN3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 46 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 46 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | [4chloro-6-quinazolinyl]-2-butynamide | ClC1=NC=NC2=CC=C(C=C12)CC#CC(=O)N | C12H8ClN3O
